US07544812B2
A 0° C. solution of 3-(3,4-dimethyl-benzyl)-5-[3-(4-methoxy-phenyl)-propyl]-1-propyl-imidazolidine-2,4-dione (0.155 g, 0.379 mmol) in THF (6 mL) was treated dropwise with a 3 molar solution of methyl magnesium bromide in Et2O (0.76 mL, 2.28 mmol) and then stirred at 0° C. under N2 for 1 h. The reaction was quenched with 1 N HCl (5 mL) and stirred at room temperature for 15 minutes to effect elimination and then was worked up extractively with EtOAc and water. The organic layer dried (MgSO4), and the solvent removed in vacuo to afford 0.155 g (100%) 1-(3,4-dimethyl-benzyl)-4-[3-(4-methoxy-phenyl)-propyl]-5-methyl-3-propyl-1,3-dihydro-imidazol-2-one that was utilized without purification. MS (ES+) Calc'd for C26H35N2O2 (M+1) 407. Found m/z 407 (100%). 1H NMR.

reactant | 3-(3,4-dimethyl-benzyl)-5-[3-(4-methoxy-phenyl)-propyl]-1-propyl-imidazolidine-2,4-dione | 0.379 mmol, 0.155 g | CC=1C=C(CN2C(N(C(C2=O)CCCC2=CC=C(C=C2)OC)CCC)=O)C=CC1C | C25H32N2O3
reactant | methyl magnesium bromide | C[Mg]Br
reactant | Et2O | 2.28 mmol, 0.76 mL | CCOCC | C4H10O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(3,4-dimethyl-benzyl)-4-[3-(4-methoxy-phenyl)-propyl]-5-methyl-3-propyl-1,3-dihydro-imidazol-2-one | 0.155 g, 100% | CC=1C=C(CN2C(N(C(=C2C)CCCC2=CC=C(C=C2)OC)CCC)=O)C=CC1C | C26H34N2O2
